current_source_t_network - fault test
I1 0 a DC 0.005
R_s a b 499.417413
R_p b 0 994.413758
R_L b c 1517.083796
C_leak c 0 6.72e-06
.op
.control
run
print v(a) v(b) v(c)
print @r_s[i] @r_p[i] @r_l[i]
print @i1[i]
.endc
.end
